US04233302
(i) N"-Cyano-N,N'-bis[2-[[5-[(dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]guanidine
A mixture of 5-[[(2-aminoethyl)thio]methyl]N,N-dimethyl-2-furanmethanamine (1.39 g) and N'-cyano-N-[2-[[5-[(dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]carbamimidothioic acid, methyl ester (2.0 g) was heated at 120° for 2 days. The oily product was subjected to column chromatography (silica-methanol) giving the title compound as a yellow oil (1.75 g).

reactant | 5-[[(2-aminoethyl)thio]methyl]N,N-dimethyl-2-furanmethanamine | 1.39 g | NCCSCC1=CC=C(O1)CN(C)C | C10H18N2OS
reactant | N'-cyano-N-[2-[[5-[(dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]carbamimidothioic acid, methyl ester | 2.0 g | C(#N)N=C(NCCSCC=1OC(=CC1)CN(C)C)SC | C13H20N4OS2
product | N"-Cyano-N,N'-bis[2-[[5-[(dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]guanidine | 1.75 g | C(#N)N=C(NCCSCC=1OC(=CC1)CN(C)C)NCCSCC=1OC(=CC1)CN(C)C | C22H34N6O2S2
